US09334278B2
To a solution of N-tert-butyl-2-(2-fluoro-4-methylphenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (87 mg, 184 μmol) in dichloromethane (3 mL) was added trifluoroacetic acid (421 mg, 284 μL, 3.69 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.4 mL) and stirred at room temperature for 1 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether to give N-tert-butyl-2-(2-fluoro-4-methylphenylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (58 mg, 170 μmol, 92%) as an off-white solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.27 (s, 1H), 8.97 (s, 1H), 8.10 (s, 1H), 7.96 (d, J=2.3, 1 H), 7.81 (t, J=8.6, 1 H), 7.70 (s, 1H), 7.10 (d, J=12.4, 1 H), 6.95 (d, J=8.0, 1 H), 2.29 (s, 3H), 1.32 (s, 9H); MS (EI/CI) m/z: 342.1 [M+H].

reactant | N-tert-butyl-2-(2-fluoro-4-methylphenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 184 μmol, 87 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=C(C=C(C=C2)C)F)COCC[Si](C)(C)C | C24H34FN5O2Si
reactant | trifluoroacetic acid | 3.69 mmol, 284 μL, 421 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ammonium hydroxide | 0.4 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(2-fluoro-4-methylphenylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 170 μmol, 58 mg, 92% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=C(C=C(C=C2)C)F | C18H20FN5O
